US08309579B2
Step a) Formation of tert-butyl ((2S)-2-{[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]carbonyl}-4-methylpentyl)(benzyloxy)carbamate
To a solution of 4-benzyl-3-[2-(benzyloxyamino-methyl)-4-methyl-pentanoyl]-oxazolidin-2-one (1.0 g; 2.44 mmol; 1.0 eq. prepared following the protocols described in WO 02/102790 but starting from isobutyl malonic acid) and di-tert-butyl dicarbonate (585 mg; 2.7 mmol; 1.1 eq.) in DCM (10 mL) was added triethylamine (416 μL; 2.9 mmol; 1.2 eq.) and the reaction mixture stirred overnight at room temperature. DMAP (0.1 eq.) and then di-tert-butyl dicarbonate (200 mg) were added and the mixture stirred at room temperature overnight. An aqueous solution of HCl (1 N) was added and the reaction mixture extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered and evaporated to give a colorless oil. Purification by column chromatography (Silicagel, 13% EtOAc in c-Hex) gave the title product as a colorless oil (920 mg, 74%). HPLC, Rt: 5.33 min (purity: 88.9%).

reactant | 4-benzyl-3-[2-(benzyloxyamino-methyl)-4-methyl-pentanoyl]-oxazolidin-2-one | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)CNOCC1=CC=CC=C1)=O | C24H30N2O4
reactant | isobutyl malonic acid | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
reactant | di-tert-butyl dicarbonate | 2.7 mmol, 585 mg, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.9 mmol, 416 μL, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 200 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl ((2S)-2-{[(4R)-4-benzyl-2-oxo-1,3-oxazolidin-3-yl]carbonyl}-4-methylpentyl)(benzyloxy)carbamate | 920 mg, 74% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)[C@H](CN(C(OC(C)(C)C)=O)OCC1=CC=CC=C1)CC(C)C | C29H38N2O6
